US06316490B1
2-[2-(3,4-Dichlorophenyl)thioethyl]-1-methylpyrrolidine (Method B):
2-(2-Chloroethyl)-1-methylpyrrolidine (1.50 g, 10.26 mmole), 3,4-dichlorobenzenethiol (1.82 g, 10.1 mmole), potassium carbonate (14.03 g, 101.6 mmole) and DMF (20 mL) were combined, yielding 0.46 g (4.34 mmole, 43%) of the desired compound.

reactant | 2-(2-Chloroethyl)-1-methylpyrrolidine | 10.26 mmole, 1.50 g | ClCCC1N(CCC1)C | C7H14ClN
reactant | 3,4-dichlorobenzenethiol | 10.1 mmole, 1.82 g | ClC=1C=C(C=CC1Cl)S | C6H4Cl2S
reactant | potassium carbonate | 101.6 mmole, 14.03 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-[2-(3,4-Dichlorophenyl)thioethyl]-1-methylpyrrolidine | 4.34 mmole, 0.46 g, 43% | ClC=1C=C(C=CC1Cl)SCCC1N(CCC1)C | C13H17Cl2NS
